US06200995B1
35.1 Preparation of N-(2-furanylmethyl) 2-fluoro-5-nitrobenzamide
To a 0.2 M solution of 2-fluoro-5-nitrobenzoic acid (1.0 g, 5.4 mmol, Aldrich) in anhydrous THF at ambient temperature was added furfurylamine (1.1 g, 5.9 mmol), HBTU (2.24 g g, 5.9 mmol, Chem-Impex), HOBT (0.8 g, 5.9 mmol, Novabiochem) and NMM (0.59 mL, 5.4 mmol, Aldrich). The resulting solution was stirred for 18 hr. To the reaction mixture was added a 1 M solution of aqueous hydrochloric acid (30 mL). The crude mixture was extracted 3× with EtOAc (50 mL). The organic layers were combined, washed one time with a saturated aqueous solution of NaHCO3 (100 mL), one time with brine (100 mL), dried over Na2SO4, and concentrated under vacuum to yield 1.4 g (100%) of product as an off white solid which was used without further purification.

reactant | 2-fluoro-5-nitrobenzoic acid | 5.4 mmol, 1.0 g | FC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | furfurylamine | 5.9 mmol, 1.1 g | C(C1=CC=CO1)N | C5H7NO
reactant | HBTU | 5.9 mmol, 2.24 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 5.9 mmol, 0.8 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 5.4 mmol, 0.59 mL | CN1CCOCC1 | C5H11NO
reactant | hydrochloric acid | 30 mL | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | N-(2-furanylmethyl) 2-fluoro-5-nitrobenzamide | 1.4 g, 100% | O1C(=CC=C1)CNC(C1=C(C=CC(=C1)[N+](=O)[O-])F)=O | C12H9FN2O4
